US07053117B2
2-Amino-3-cyano-4-(6-methyl-pyrazin-2-yl)-4H-indolo[4,5-b]pyran
The title compound was prepared from 6-methyl-pyrazine-2-carbaldehyde, malononitrile and 4-hydroxyindole by a procedure similar to Example 57 in 22% yield. 1-NMR (DMSO-d6): 11.30 (brs, 1H), 8.44 (dd, J=15.6, 1.10 Hz, 2H), 7.36 (dd, J=3.03, 0.83 Hz, 1H), 7.09 (d, J=8.51 Hz, 1H), 7.00 (s, 2H), 6.69 (d, J=8.24 Hz, 1H), 6.45 (m, J=3.03, 1.10, 0.83 Hz, 1H), 4.97 (s, 1H), 2.44 (s, 3H).

reactant | 6-methyl-pyrazine-2-carbaldehyde | CC1=CN=CC(=N1)C=O | C6H6N2O
reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | 4-hydroxyindole | OC1=C2C=CNC2=CC=C1 | C8H7NO
product | 2-Amino-3-cyano-4-(6-methyl-pyrazin-2-yl)-4H-indolo[4,5-b]pyran | 22% yield | NC1=C(C(C=2C(O1)C1=CC=NC1=CC2)C2=NC(=CN=C2)C)C#N | C17H13N5O
